US04826986
Ethyl 8-amino-1,4-dioxaspiro[4.5]decane-7-carboxylate
Ethyl 8-[(phenylmethyl)amino]-1,4-dioxaspiro[4.5]-decane-7-carboxylate (397.2 g, 1.3 mole) was combined with 2563 ml of ethanol and 80 g of 5% palladium on activated carbon and hydrogenated at 50 p.s.i. for 6 hours at 45°-50° C. The catalyst was separated by filtration, and the filtrate was evaporated. When taken up in methylene chloride a semi-solid precipitated and was filtered out. The filtratew was evaporated to yield 277.7 g (97.4%) of the title product.

reactant | Ethyl 8-[(phenylmethyl)amino]-1,4-dioxaspiro[4.5]-decane-7-carboxylate | 1.3 mole, 397.2 g | C1(=CC=CC=C1)CNC1C(CC2(OCCO2)CC1)C(=O)OCC | C18H25NO4
catalyst | palladium on activated carbon | 80 g | [Pd] | Pd
solvent | ethanol | 2563 ml | C(C)O | C2H6O
product | Ethyl 8-amino-1,4-dioxaspiro[4.5]decane-7-carboxylate | 277.7 g, 97.4% | NC1C(CC2(OCCO2)CC1)C(=O)OCC | C11H19NO4
